US04055595
A solution of 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionyl chloride (3.16 g.) in 1,2-dichloroethane (10 ml.) is added, dropwise and below 10° C., to a stirred mixture of 2-(4-chlorophenyloxy)-2-methylpropanol (1.40 g.), pyridine (4.0 ml.), and 1,2-dichloroethane (10 ml.). The mixture is stirred at ambient temperature for 20 hours, then mixed with ice-water and chloroform. The organic phase is separated, and washed with 3N-hydrochloric acid and water. 0.4N-Aqueous potassium hydroxide (5 ml.) and ice are added, the mixture is shaken, and enough ether is added to cause the resulting emulsion to separate into two layers. The organic layer is washed with water, dried and evaporated. The residual oil (3.6 g.) is chromatographed in light petroleum (b.p. 60°-80° C.) on a column of silica gel (45 g.). The column is washed portionwise the solvent (2 l ) until no more material is eluted, and then with a mixture of light petroleum and ether (10:1, 200 ml.). This eluate is evaporated to give 2-(4-chlorophenyloxy)-2-methylpropyl 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionate (2.6 g.) as a syrup.

reactant | 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionyl chloride | 3.16 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)Cl)(C(F)(F)F)C(F)(F)F)C=C1 | C17H10Cl2F6O2
reactant | 2-(4-chlorophenyloxy)-2-methylpropanol | 1.40 g | ClC1=CC=C(C=C1)OC(CO)(C)C | C10H13ClO2
reactant | pyridine | 4.0 ml | N1=CC=CC=C1 | C5H5N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 2-(4-chlorophenyloxy)-2-methylpropyl 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionate | 2.6 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)OCC(C)(C)OC2=CC=C(C=C2)Cl)(C(F)(F)F)C(F)(F)F)C=C1 | C27H22Cl2F6O4
